US04481310
Preparation of Difurfuryl Malonate
196 parts by wt. of furfuryl alcohol and 132 parts by wt. dimethyl malonate (stoichiometric proportions) are mixed and 0.5-0.75% wt. sodium metal added. The mixture is heated to a temperature in the range from 214°-240° F. under a nitrogen atmoshpere. Methanol is evolved and removed as the reaction progressed. After a period of 4 hours, a waxy solid is obtained. The liquid product obtained after washing with water is difurfuryl malonate.

reactant | furfuryl alcohol | C(C1=CC=CO1)O | C5H6O2
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium | [Na] | Na
solvent | Methanol | CO | CH4O
product | Difurfuryl Malonate | C(CC(=O)OCC1=CC=CO1)(=O)OCC1=CC=CO1 | C13H12O6
